US07847100B2
To a solution of alpha-methyl-D-phenylalanine (1.74 g, 9.71 mmol) in 30 mL THF at rt was added NaBH4 (0.92 g 24.27 mmol) in one portion. The solution was cooled to 0° C. Iodine (2.46 g, 9.71 mmol) in 5 mL THF was added dropwise over 30 min. After the addition was complete, the reaction was heated to reflux for 2 days. The reaction was then cooled to 0° C. and quenched by the addition of methanol until the bubbling subsided. The reaction mixture was acidified by the addition of 6N HCl until pH 1, stirred at 50° C. for 30 min and concentrated in vacuo. Purification using ion exchange chromatography (SCX cartridge) afforded (R)-2-amino-2-methyl-3-phenylpropan-1-ol as a white solid. 1H NMR (400 MHz, CDCl3) δ 7.35-7.18 (m, 5H), 3.36 (A of AB, d, J=10.4 Hz, 1H), 3.31 (B of AB, d, J=10.4 Hz, 1H), 2.70 (s, 2H), 1.04 (s, 3H).

reactant | alpha-methyl-D-phenylalanine | 9.71 mmol, 1.74 g | C[C@@](N)(CC1=CC=CC=C1)C(=O)O | C10H13NO2
reactant | NaBH4 | 24.27 mmol, 0.92 g | [BH4-].[Na+]
reactant | Iodine | 9.71 mmol, 2.46 g | II | I2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (R)-2-amino-2-methyl-3-phenylpropan-1-ol | N[C@@](CO)(CC1=CC=CC=C1)C | C10H15NO
